US05807859
The process is performed as in Example 3 but starting with 4.7 g of 10-(4-acetylaminobenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one, 250 ml of dimethylformamide, 50 ml of methanol and 0.6 g of 10% palladium-on-charcoal for 26 hours. 1.2 g of 10-(4-acetylaminobenzyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one are obtained in the form of a cream-white solid melting above 260° C. (Analysis, % calculated C: 71.34, H: 4.90, N: 15.13, O: 8.64, % found C: 71.3, H: 4.7, N: 15.3, O: 8.3).

reactant | 10-(4-acetylaminobenzylidene)-5H,10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-4-one | 4.7 g | C(C)(=O)NC1=CC=C(C=C2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=C1 | C22H16N4O2
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
catalyst | palladium-on-charcoal | 0.6 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
product | 10-(4-acetylaminobenzyl)-5H,10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-4-one | 1.2 g | C(C)(=O)NC1=CC=C(CC2C=3C=CC=CC3C=3NC(C=4N(C32)C=CN4)=O)C=C1 | C22H18N4O2
